US07977358B2
C][1-(5-Chloro-2-methoxy-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone
In analogy to the procedure described in Example 18], 1-(5-chloro-2-methoxy-phenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic acid and 4-pyrrolidine-1-yl-piperidine gave the title compound in 99% yield as light yellow foam. MS: 417.0 (MH+, 1 Cl).

reactant | 1-(5-chloro-2-methoxy-phenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic acid | ClC=1C=CC(=C(C1)N1N=C(C(=C1C)C(=O)O)C)OC | C13H13ClN2O3
reactant | 4-pyrrolidine-1-yl-piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
product | [1-(5-Chloro-2-methoxy-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone | 99% yield | ClC=1C=CC(=C(C1)N1N=C(C(=C1C)C(=O)N1CCC(CC1)N1CCCC1)C)OC | C22H29ClN4O2
